US06028195
1-{[5-(1-Hydroxyethyl)-2-methoxy-4-methylphenyl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine
1-[(5-Acetyl-2-methoxy-4-methylphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(0.2 g, 0.47 mmol) was dissolved in anhydrous ethanol(15 ml), and sodium borohydride(17 mg) was added thereto, and then the resulting mixture was stirred at room temperature for 2 hours, concentrated under the reduced pressure to remove ethanol, and purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-[(5-Acetyl-2-methoxy-4-methylphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.47 mmol, 0.2 g | C(C)(=O)C=1C(=CC(=C(C1)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)OC)C | C23H29N3O5
reactant | sodium borohydride | 17 mg | [BH4-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-{[5-(1-Hydroxyethyl)-2-methoxy-4-methylphenyl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine | yield: 96% | OC(C)C=1C(=CC(=C(C1)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)OC)C | C23H31N3O5
